US07297795B2
A suspension of 3-bromo-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide (4.00 g, 8.50 mmol) in 200 mL of acetonitrile was heated to reflux and phosphorous oxychloride (5.0 mL) was added dropwise, via syringe. The reaction mixture was heated at reflux overnight, then cooled to room temperature and concentrated in vacuo. The residue was cooled to 0° C. and saturated aqueous sodium bicarbonate was added. The mixture was stirred for 1 hour and then extracted with a large volume of ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and filtered. The filtrate was reduced in volume until solids appeared. The solids were collected by filtration, washed with diethyl ether and hexanes to provide 1.73 g of 7-bromo-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile as a light tan solid, mp >250° C. 1H NMR (400 MHz, DMSO-d6) δ 3.87 (s, 3H), 4.04 (s, 3H), 7.41 (s, 1H), 7.78 (s, 1H), 7.99(s, 1H), 8.22 (s, 1H), 8.48 (s, 1H), 9.93 (s, 1H); MS (ES) m/z449.9, 451.9, 453.9 (M−H)−

reactant | 3-bromo-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 8.50 mmol, 4.00 g | BrC=1C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=CC1OC | C18H14BrCl2N3O3
reactant | phosphorous oxychloride | 5.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 7-bromo-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile | 1.73 g | BrC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC | C18H12BrCl2N3O2
